US06887889B2
To a solution of [4-(4-iodo-phenyl)-1-methyl-piperidin-4-yl]-methylamine (0.20 g, 0.606 mmol) in CH2Cl2 (2 mL) under Ar was added 2,4-difluorophenylisocyanate (0.08 mL, 0.667 mmol, 1.1 eq.) and DIEA (0.106 mL, 0.606 mmol, 1 eq.). The mixture was stirred at room temperature for 16 h then diluted with EtOAc (25 mL) and washed with H2O (20 mL) and saturated brine (20 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated to give a yellow oil which was purified by flash column chromatography by eluting with 3% MeOH/CH2Cl2 (1% TEA) to furnish 1-(2,4-difluoro-phenyl)-3-[4-(4-iodo-phenyl)-1-methyl-piperidin-4-yl-methyl]-urea as a white solid (0.211 g, 0.435 mmol, 72%). 1H NMR (300 MHz, CDCl3): δ 7.84 (br.d, NH), 7.68 (d, 2H), 7.36 (s, 1H), 7.11 (d, 2H), 6.87 (d, 2H), 5.32 (br.s., NH), 3.40 (s, 2H), 2.66 (m, 4H), 2.28 (s, 3H), 2.10 (m, 2H), 1.96 (m, 2H), 1.14 (t, 3H). MS (ESI): 486.1,487.0 (M+1).

reactant | [4-(4-iodo-phenyl)-1-methyl-piperidin-4-yl]-methylamine | 0.606 mmol, 0.20 g | IC1=CC=C(C=C1)C1(CCN(CC1)C)NC | C13H19IN2
reactant | 2,4-difluorophenylisocyanate | 0.667 mmol, 0.08 mL, 1.1 eq. | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | DIEA | 0.606 mmol, 0.106 mL, 1 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-(2,4-difluoro-phenyl)-3-[4-(4-iodo-phenyl)-1-methyl-piperidin-4-yl-methyl]-urea | 0.435 mmol, 0.211 g, 72% | FC1=C(C=CC(=C1)F)NC(=O)NCC1(CCN(CC1)C)C1=CC=C(C=C1)I | C20H22F2IN3O
